US04318913
N5 -[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
Similarly prepared from N'-cyano-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-carbamimidothioic acid, methyl ester (14.1 g) and hydrazine hydrate (10 ml) was N3 -[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine (10.4 g) m.p. 100°-101.5°. TLC silica; ethyl acetate:water:isopropanol:0.088 ammonia 25:8:15:2; Rf 0.4.

reactant | N'-cyano-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-carbamimidothioic acid, methyl ester | 14.1 g | C(#N)N=C(NCCCOC1=CC(=CC=C1)CN1CCCCC1)SC | C18H26N4OS
reactant | hydrazine hydrate | 10 ml | O.NN
reactant | [3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 10.4 g | N1(CCCCC1)CC=1C=C(OCCCN2N=C(N=C2N)N)C=CC1 | C17H26N6O
reactant | ammonia | N | H3N
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N5 -[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | CN(C)CC=1C=C(OCCCNC2=NC(=NN2)N)C=CC1 | C14H22N6O
